US07989480B2
2-(4-Methoxy-phenyl)-thiazole
A mixture of 2-bromothiazole (2.0 g, 12.2 mmol), (4-methoxyphenyl)boronic acid (1.9 g, 12.8 mmol), K2CO3 (5.0 g, 36.5 mmol) and (Ph3P)4Pd (0.7 g, 0.61 mmol) in dioxane (40 mL) was refluxed for 16 h. After the solids were filtered off, the filtrate was concentrated in vacuo. The residue was purified by a column chromatography on silica gel to yield the title compound (1.1 g, 50%). 1HNMR (400 MHz, CDCl3) δ 3.86 (s, 3H), 6.96 (d, J=8.8 Hz, 2H), 7.25 (d, J=3.2 Hz, 1H), 7.81 (d, J=3.2 Hz, 1H), 7.90 (d, J=8.8 Hz, 2H), MS m/z 192 (M+1).

reactant | 2-bromothiazole | 12.2 mmol, 2.0 g | BrC=1SC=CN1 | C3H2BrNS
reactant | (4-methoxyphenyl)boronic acid | 12.8 mmol, 1.9 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | K2CO3 | 36.5 mmol, 5.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
catalyst | (Ph3P)4Pd | 0.61 mmol, 0.7 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-Methoxy-phenyl)-thiazole | 1.1 g, 50% | COC1=CC=C(C=C1)C=1SC=CN1 | C10H9NOS
